US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (0.48 g) as starting compound, potassium carbonate (0.80 g) and 5-phenylsulfonylpentyl chloride (0.40 g) were reacted and treated in the same manner as in Example 199 to give 0.17 g of 4-amino-5-chloro-2-methoxy-N-((1-(5-phenylsulfonylpentyl)piperidin-4-yl)methyl)-benzamide hydrochloride.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 0.48 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | potassium carbonate | 0.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-phenylsulfonylpentyl chloride | 0.40 g | C1(=CC=CC=C1)S(=O)(=O)CCCCCCl | C11H15ClO2S
product | 4-amino-5-chloro-2-methoxy-N-((1-(5-phenylsulfonylpentyl)piperidin-4-yl)methyl)-benzamide hydrochloride | 0.17 g | Cl.NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCS(=O)(=O)C2=CC=CC=C2)C=C1Cl)OC | InChI=1S/C25H34ClN3O4S.ClH/c1-33-24-17-23(27)22(26)16-21(24)25(30)28-18-19-10-13-29(14-11-19)12-6-3-7-15-34(31,32)20-8-4-2-5-9-20;/h2,4-5,8-9,16-17,19H,3,6-7,10-15,18,27H2,1H3,(H,28,30);1H
